US09119868B2
Step 5: (4-(N-(2-(4-chlorophenyl)-5-cyclopropyl-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)-2-fluorophenyl)boronic acid
Sodium periodate (549 mg, 2.57 mmol) was added to a mixture of 2-(4-chlorophenyl)-5-cyclopropyl-6-(N-(3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)-N-methylbenzofuran-3-carboxamide (164 mg, 0.257 mmol) in THF (6 mL) and 1N HCl (3.21 mL, 3.21 mmol). The mixture was stirred at room temperature overnight and EtOAc and water were added. The aqueous layer was extracted with EtOAc (2×) and the combined organic phases were washed with 10% aq. Na2S2O3, brine, dried over Na2SO4, filtered and concentrated to dryness. The residue was purified by reverse phase HPLC (MeCN/H2O with 0.1% TFA) to give the title compound as a white solid (80 mg, 56%). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.52 (q, 1H) 8.23 (br. s., 1H) 8.07 (s, 1H) 7.94 (d, 2H) 7.64 (d, 2H) 7.55 (t, 1H) 7.22 (s, 1H) 7.11 (s, 1H) 7.07-7.10 (m, 1H) 3.45 (s, 4H) 2.85 (d, 3H) 2.04-2.15 (m, 1H) 1.00 (br. s., 1H) 0.82 (d, 2H) 0.54 (br. s., 1H). LCMS (m/z, ES+)=557 (M+H+).

reactant | Sodium periodate | 2.57 mmol, 549 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | 2-(4-chlorophenyl)-5-cyclopropyl-6-(N-(3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)-N-methylbenzofuran-3-carboxamide | 0.257 mmol, 164 mg | ClC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C(=C2)N(S(=O)(=O)C)C2=CC(=C(C=C2)B2OC(C(O2)(C)C)(C)C)F)C2CC2 | C32H33BClFN2O6S
reactant | HCl | 3.21 mmol, 1N, 3.21 mL | Cl | ClH
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (4-(N-(2-(4-chlorophenyl)-5-cyclopropyl-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)-2-fluorophenyl)boronic acid | 80 mg, 56% | ClC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C(=C2)N(S(=O)(=O)C)C2=CC(=C(C=C2)B(O)O)F)C2CC2 | C26H23BClFN2O6S
